US08084448B2
A. (E)-2-Acetylamino-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-acrylic Acid Methyl Ester
A mixture of 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (200 mg, 0.4 mmol), 2-acetylaminoacrylic acid methyl ester (16.6 mg, 0.54 mmol), triethylamine (0.75 mL, 5.4 mmol) and Pd(OAc)2 (15 mg) in MeCN (5 mL) in a pressure vessel is heated at 100° C. for 18 h. The mixture is filtered and the solvent is removed under reduced pressure to give the title compound which is used directly in the next step.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.4 mmol, 200 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(NS1(=O)=O)=O | C15H13IN2O4S
reactant | 2-acetylaminoacrylic acid methyl ester | 0.54 mmol, 16.6 mg | COC(C(=C)NC(C)=O)=O | C6H9NO3
reactant | triethylamine | 5.4 mmol, 0.75 mL | C(C)N(CC)CC | C6H15N
solvent | MeCN | 5 mL | CC#N | C2H3N
catalyst | Pd(OAc)2 | 15 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (E)-2-Acetylamino-3-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-acrylic Acid Methyl Ester | COC(/C(=C\C1=CC(=C(C=C1)N1S(NC(C1)=O)(=O)=O)OCC1=CC=CC=C1)/NC(C)=O)=O | C21H21N3O7S
